US05756531
Preparation of 2,3-dimethoxypropanal-O-2-[Z-5-fluoro-2-methyl-1-(4-methylsulfinylphenyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-methylsulfinylphenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with 2,3-dimethoxypropanal by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-methylsulfinylphenyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)C)C)CCON | C20H20FNO2S
reactant | 2,3-dimethoxypropanal | COC(C=O)COC | C5H10O3
product | 2,3-dimethoxypropanal-O-2-[Z-5-fluoro-2-methyl-1-(4-methylsulfinylphenyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)C)C)CCON=CC(COC)OC | C25H28FNO4S
